US06579872B1
Using an analogous procedure to that described in Example 25, 3-(1-tert-butoxycarbonylpiperidin-4-yloxy)-4-methoxybenzoic acid was reacted with N-(3-amino-4-methylphenyl)-3-morpholinobenzamide to give N-[2-methyl-5-(3-morpholinobenzamido)phenyl]-3-(1-tert-butoxycarbonylpiperidin-4-yloxy)-4-methoxybenzamide in 48% yield and that product was treated with trifluoroacetic acid. The reaction mixture was evaporated, water (40 ml) was added to the residue and the mixture was basified by the addition of 1N aqueous sodium hydroxide solution. The water was decanted and the residue was titurated under diethyl ether. The resultant solid was isolated, dissolved in water (30 ml) and basified by the addition of potassium carbonate. The precipitate was isolated and dried. There was thus obtained the title compound in 26% yield; NMR Spectrum: (DMSOd6) 1.48 (m, 2H), 1.9 (m, 2H), 2.18 (s, 3H), 3.19 (m, 4H), 3.75 (m, 4H), 3.83 (s, 3H), 4.39 (m, 1H), 7.1 (m, 2H), 7.21 (d, 1H), 7.4 (m, 3H), 7.6 (m, 3H), 7.79 (s, 1H), 9.72 (s, 1H), 10.1 (s, 1H); Mass Spectrum: M+H+ 545.

reactant | 3-(1-tert-butoxycarbonylpiperidin-4-yloxy)-4-methoxybenzoic acid | C(C)(C)(C)OC(=O)N1CCC(CC1)OC=1C=C(C(=O)O)C=CC1OC | C18H25NO6
reactant | N-(3-amino-4-methylphenyl)-3-morpholinobenzamide | NC=1C=C(C=CC1C)NC(C1=CC(=CC=C1)N1CCOCC1)=O | C18H21N3O2
product | N-[2-methyl-5-(3-morpholinobenzamido)phenyl]-3-(1-tert-butoxycarbonylpiperidin-4-yloxy)-4-methoxybenzamide | 48% yield | CC1=C(C=C(C=C1)NC(C1=CC(=CC=C1)N1CCOCC1)=O)NC(C1=CC(=C(C=C1)OC)OC1CCN(CC1)C(=O)OC(C)(C)C)=O | C36H44N4O7
